US06358995B1
(A) 3-Ethenyl-4-fluoroanisole
39.4 g of methyltriphenylphosphonium iodide and 10.9 g of potassium t-butoxide were suspended in 150 ml of tetrahydrofuran. The resulting suspension was stirred at 0° C. under nitrogen stream for 30 minutes, followed by the dropwise addition thereto of a solution of 10 g of 2-fluoro-5-methoxybenzaldehyde in 20 ml of tetrahydrofuran. The resulting mixture was further stirred for one hour, quenched by the addition of water and extracted with ethyl acetate. The formed organic layer was washed with water and brine successively, dried over anhydrous magnesium sulfate, and evaporated. The resulting residue was subjected to silica gel column chromatography (developer: 5% ethyl acetate/n-hexane) to give 9.1 g of the title compound as a colorless oil.

reactant | methyltriphenylphosphonium iodide | 39.4 g | [I-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 10.9 g | CC(C)([O-])C.[K+]
reactant | 2-fluoro-5-methoxybenzaldehyde | 10 g | FC1=C(C=O)C=C(C=C1)OC | C8H7FO2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Ethenyl-4-fluoroanisole | 9.1 g | C(=C)C=1C=C(C=CC1F)OC | C9H9FO
